US04561882
A mixture of 4-(2-nitro-4-trifluoromethylphenoxy)phenol (9.36 mm), ethyl 4-bromo-3-methoxy-2-pentenoate (12 mm.) and K2CO3 (14 mm.) in acetone (20 ml.) is refluxed for 24 hours. After filtration, the filtrate is concentrated and the oily residue chromatographed on silica gel to yield ethyl 4-[4-(2-nitro-4-fluoromethylphenoxy)phenoxy]-3-methoxy-2-pentenoate.

reactant | 4-(2-nitro-4-trifluoromethylphenoxy)phenol | [N+](=O)([O-])C1=C(OC2=CC=C(C=C2)O)C=CC(=C1)C(F)(F)F | C13H8F3NO4
reactant | ethyl 4-bromo-3-methoxy-2-pentenoate | BrC(C(=CC(=O)OCC)OC)C | C8H13BrO3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | ethyl 4-[4-(2-nitro-4-fluoromethylphenoxy)phenoxy]-3-methoxy-2-pentenoate | [N+](=O)([O-])C1=C(OC2=CC=C(OC(C(=CC(=O)OCC)OC)C)C=C2)C=CC(=C1)CF | C21H22FNO7
